US08614327B2
To a solution of 4-cyclohexyl-3-nitro-aniline (1.54 g, 6.99 mmol) in DCM (15 mL) was added Et3N (1.9 mL, 13.63 mmol), followed by the addition of acetic anhydride (3.3 mL, 34.98 mmol). The reaction mixture was stirred at room temperature for 2 h, quenched with water, the layers separated and the organic layer was washed with 0.1N HCl, followed by washing with H2O. The organic layer was dried over MgSO4, filtered and concentrated to obtain N-(4-cyclohexyl-3-nitrophenyl)acetamide (1.7 g, 93%). 1H NMR (400 MHz, CDCl3) δ 7.91 (d, J=2.2 Hz, 1H), 7.69 (dd, J=8.6, 2.2 Hz, 1H), 7.52 (s, 1H), 7.40 (d, J=8.6 Hz, 1H), 3.01-2.87 (m, 1H), 2.22 (s, 3H), 1.95-1.78 (m, 5H), 1.42 (t, J=10.4 Hz, 4H), 1.32-1.21 (m, 1H).

reactant | 4-cyclohexyl-3-nitro-aniline | 6.99 mmol, 1.54 g | C1(CCCCC1)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C12H16N2O2
reactant | Et3N | 13.63 mmol, 1.9 mL | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 34.98 mmol, 3.3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(4-cyclohexyl-3-nitrophenyl)acetamide | 1.7 g, 93% | C1(CCCCC1)C1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C14H18N2O3
